US05612353
To a suspension of 7-hydroxynaphthalene-2-sulfonic acid, sodium salt (15.0 g, 60.9 mmol) in 150 mL of 2:1 H2O/ethanol is added solid NaOH (2.68 g, 67.0 mmol) at room temperature. The mixture is stirred until a homogenous solution forms, and dimethyl sulfate (6.34 mL, 67.0 mmol) is then added. A precipitate eventually forms and the mixture is stirred over a period of 16 hours. The crude mixture is concentrated in vacuo and the residue is stirred in 100 mL of absolute EtOH as a slurry for 2 hours. The precipitate is filtered and dried. The solid is heated at reflux in 100 mL of 95% EtOH for 2 h, allowed to cool to room temperature, filtered and dried to give 12.6 g of crude 7-methoxynaphthalene-2-sulfonic acid, sodium salt. A mixture of the sulfonic acid, sodium salt (12.6 g, 48.6 mmol) in 20 mL of phosphorous oxychloride and phosphorous pentachloride (13.2 g, 63.2 mmol) is heated slowly to 60° C. until a homogenous solution forms and then is heated at 120° C. for 4 hours. The resulting mixture is cooled in an ice bath and a mixture of ice/ice water is added slowly with stirring. The mixture is diluted with water and extracted with CHCl3 (2×100 mL). The combined organic layers are washed successively with water, saturated NaHCO3 solution and saturated NaCl. The organic phase is dried over anhydrous MgSO4, filtered and concentrated to give 10.0 g of a crude oil. The crude product is purified by column chromatography in a gradient of 5% EtOAc/hexanes to 30% EtOAc/hexanes to afford the title compound (3.80 g, 14.8 mmol) as a white crystalline solid.

reactant | 7-hydroxynaphthalene-2-sulfonic acid | OC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)O | C10H8O4S
reactant | sodium | 60.9 mmol, 15.0 g | [Na] | Na
reactant | NaOH | 67.0 mmol, 2.68 g | [OH-].[Na+]
reactant | dimethyl sulfate | 67.0 mmol, 6.34 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | H2O ethanol | 150 mL | O.C(C)O
product | 7-methoxynaphthalene-2-sulfonic acid | 12.6 g | COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)O | C11H10O4S
